US06143763
6-[3-(3-Cyclohexyl-3-methyl-1-allylureido)propoxy]carbostyril (3.0 g) is dissolved in ethanol (90 ml), and thereto is added 10% palladium-carbon (0.3 g), and the mixture is subjected to catalytic hydrogenation under 1 atm of hydrogen gas at room temperature. After the reaction is complete, the catalyst is removed by filtration, and the filtrate is concentrated under reduced pressure. The residue is purified by silica gel column chromatography (solvent; methylene chloride:methanol=20:1), and recrystallized from ethanol-diethyl ether to give 6-[3-(3-cyclohexyl-3-methyl-1-propylureido)propoxy]carbostyril (2.1 g) as colorless flakes.

reactant | 6-[3-(3-Cyclohexyl-3-methyl-1-allylureido)propoxy]carbostyril | 3.0 g | C1(CCCCC1)N(C(N(CC=C)CCCOC=1C=C2C=CC(NC2=CC1)=O)=O)C | C23H31N3O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 90 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.3 g | [C].[Pd]
product | 6-[3-(3-cyclohexyl-3-methyl-1-propylureido)propoxy]carbostyril | 2.1 g | C1(CCCCC1)N(C(N(CCC)CCCOC=1C=C2C=CC(NC2=CC1)=O)=O)C | C23H33N3O3
